US06162815
(a) Synthesis of ethyl 4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylsulfonyl)benzoate
1.05 g (2.8 mmol) of ethyl 4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylthio)benzoate and 30 ml of dichloromethane were introduced into a round-bottomed flask, and 2.45 g (7.12 mmol) of meta-chloroperbenzoic acid were then added. The entire contents were stirred at room temperature for two hours, the reaction medium poured into water, extracted with dichloromethane, the organic phase decanted off, dried over magnesium sulfate and evaporated.

reactant | ethyl 4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylthio)benzoate | 2.8 mmol, 1.05 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)SC1=CC=C(C(=O)OCC)C=C1)C | C23H28O2S
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
reactant | meta-chloroperbenzoic acid | 7.12 mmol, 2.45 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | water | O | H2O
product | ethyl 4-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylsulfonyl)benzoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)S(=O)(=O)C1=CC=C(C(=O)OCC)C=C1)C | C23H28O4S
